US07981903B2
To a solution of 2,3-difluoro-6-nitrophenol (15.01 g, 85.8 mmol) in anhydrous dimethylformamide (120 mL) was cautiously added potassium carbonate (16.6 g, 120 mmol) and methyl iodide (6.63 mL, 107 mmol). The resulting suspension was stirred overnight. The next morning the reaction was poured into water and extracted twice with diethyl ether. The organic layers were washed twice with 5% LiCl, dried over sodium sulfate. The solvents were removed under reduced pressure to afford 1,2-difluoro-3-(methyloxy)-4-nitrobenzene as a yellow oil (14.7 g, 91% yield). 1H NMR (400 MHz, CDCl3) δ ppm 4.13 (s, 3 H), 7.00 (td, J=9.07, 7.15 Hz, 1 H), 7.67 (ddd, J=9.35, 5.32, 2.20 Hz, 1 H).

reactant | 2,3-difluoro-6-nitrophenol | 85.8 mmol, 15.01 g | FC1=C(C(=CC=C1F)[N+](=O)[O-])O | C6H3F2NO3
reactant | potassium carbonate | 120 mmol, 16.6 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 107 mmol, 6.63 mL | CI | CH3I
reactant | water | O | H2O
solvent | dimethylformamide | 120 mL | CN(C=O)C | C3H7NO
product | 1,2-difluoro-3-(methyloxy)-4-nitrobenzene | 14.7 g, 91% yield | FC1=C(C(=C(C=C1)[N+](=O)[O-])OC)F | C7H5F2NO3
